US08193349B2
To a suspension of 2,2-dimethyl-pentanedioic acid 1-methyl ester (1.00 g, 5.75 mmol) in THF (3 mL), 1M LiBHEt3 in THF (38.0 ml, 38.0 mmol) is added dropwise maintaining the temperature below 10° C. under nitrogen. The mixture is stirred at 10° C. for 1 hour. To the mixture, 50% AcOH (4.6 mL) and H2O are added. The solution is extracted with AcOEt, and the organic layer is washed with H2O, dried over MgSO4, and concentrated under reduced pressure to give 5-hydroxy-4,4-dimethyl-pentanoic acid (850 mg, quant.); 1H NMR (400 MHz, chloroform-d) ppm 1.06 (s, 6H), 1.70 (t, 2H), 2.56 (t, 2H), 3.98 (s, 2H).

reactant | 2,2-dimethyl-pentanedioic acid 1-methyl ester | 5.75 mmol, 1.00 g | COC(C(CCC(=O)O)(C)C)=O | C8H14O4
reactant | AcOH | 4.6 mL | CC(=O)O | C2H4O2
reactant | H2O | O | H2O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 38.0 mmol, 38.0 ml | C1CCOC1 | C4H8O
product | 5-hydroxy-4,4-dimethyl-pentanoic acid | 850 mg | OCC(CCC(=O)O)(C)C | C7H14O3
